US04096267
Step A: 2-(4-Cyanophenyl)-2-methyl-5-methoxy-6,7-dichloro-1-indanone
2-(4-Bromophenyl)-2-methyl-5-methoxy-6,7-dichloro-1-indanone (8.00 g., 0.02 mole), cuprous cyanide (3.94 g., 0.04 mole) and dimethylformamide (100 ml.) are heated at reflux for 8 hours, added to warm sodium cyanide solution (3 g. in 400 ml. water), extracted with benzene, the benzene solution dried over anhydrous magnesium sulfate, then concentrated in vacuo to give an oily residue. Chromatographing with chloroform on silica gel gives 1.13 g. of 2-(4-cyanophenyl)-2-methyl-5-methoxy-6,7-dichloro-1-indanone melting at 161°-163° C. after crystallization from benzene:hexane, 2:1.

reactant | 2-(4-Bromophenyl)-2-methyl-5-methoxy-6,7-dichloro-1-indanone | 0.02 mole, 8.00 g | BrC1=CC=C(C=C1)C1(C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O)C | C17H13BrCl2O2
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | sodium cyanide | 400 ml, 3 g | [C-]#N.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-Cyanophenyl)-2-methyl-5-methoxy-6,7-dichloro-1-indanone | C(#N)C1=CC=C(C=C1)C1(C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O)C | C18H13Cl2NO2
